US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2,5-difluoro-benzylamide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-(2,5-difluorobenzyl)-1-piperidinecarboxamide (0.238 g, 0.29 mmol) was reacted according to Procedure H (eluant: 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.075 g, 0.13 mmol).

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-(2,5-difluorobenzyl)-1-piperidinecarboxamide | 0.29 mmol, 0.238 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCC3=C(C=CC(=C3)F)F)C=C2)O)C=C1 | C46H54F2N4O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid 2,5-difluoro-benzylamide | 0.13 mmol, 0.075 g | FC1=C(CNC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C(C=C1)F | C30H36F2N4O4
